US07572820B2
A. N-(4-Bromo-3-chloro-2-methylphenyl)-2,2-dimethylpropanamide
N-(3-Chloro-2-methylphenyl)-2,2-dimethylpropanamide (0.5 g, 2.2 mmol) and bromine (1.4 g, 8.8 mmol) were combined in AcOH (25 mL) at rt for 2 h. The residue resulting from concentration was purified by flash chromatography (20-60% EtOAc-hexanes gradient) to afford the title compound: MS (ES) m/z 305 (M+1).

reactant | N-(3-Chloro-2-methylphenyl)-2,2-dimethylpropanamide | 2.2 mmol, 0.5 g | ClC=1C(=C(C=CC1)NC(C(C)(C)C)=O)C | C12H16ClNO
reactant | bromine | 8.8 mmol, 1.4 g | BrBr | Br2
solvent | AcOH | 25 mL | CC(=O)O | C2H4O2
product | N-(4-Bromo-3-chloro-2-methylphenyl)-2,2-dimethylpropanamide | BrC1=C(C(=C(C=C1)NC(C(C)(C)C)=O)C)Cl | C12H15BrClNO
